US07335658B2
SYNTHESIS OF 6-[4-(2-SULFAMOYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
To an ice-cold solution of 6-[4-(2-methanesulfonylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (3-methylbutyl)amide (0.078 g, 0.17 mmol) in 5 mL of THF cooled was added methyl magnesium chloride (0.071 mL, 0.212 mmol). The resulting mixture was stirred for 15 minutes at 0° C., and then 30 minutes at ambient temperature. The reaction mixture was cooled to 0° C. again, then tributylborane (0.255 mL, 0.255 mmol) was added. The mixture was stirred at ambient temperature for 30 minutes, then heated to reflux for 18 h. After the mixture was cooled to 0° C., sodium acetate, water and hydroxylamine-o-sulfonic acid (0.067 g) were added. The mixture was stirred for 3 h, and then diluted with ethyl acetate, washed with saturated sodium bicarbonate, brine, dried and concentrated in vacuo. The residue was purified by flash column chromatography using 20% methanol in ethyl acetate to yield the title product (0.033 g, 42% yield). 1H NMR (300 MHz, CDCl3) δ 8.58, 7.98, 7.81, 7.75-7.68, 7.64-7.58, 7.43, 7.19, 4.03-3.88, 3.78-3.59, 3.21-3.20, 3.152-3.147, 1.65-1.50, 1.46-1.35, 0.85. 13C NMR (75 MHz, CDCl3) δ 170.1, 165.5, 161.7, 146.3, 139.1, 137.3, 135.5, 131.3, 130.9, 128.8, 127.9, 114.4, 45.6, 45.2, 44.96, 42.6, 39.5, 38.8, 27.1, 22.9. MS (ES+) m/z 460.1 (M+1).

reactant | 6-[4-(2-methanesulfonylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid (3-methylbutyl)amide | 0.17 mmol, 0.078 g | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)S(=O)(=O)C)=O)C | C22H29N5O4S
reactant | methyl magnesium chloride | 0.212 mmol, 0.071 mL | C[Mg]Cl
reactant | tributylborane | 0.255 mmol, 0.255 mL | C(CCC)B(CCCC)CCCC | C12H27B
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine-o-sulfonic acid | 0.067 g | NOS(=O)(=O)O | H3NO4S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-[4-(2-SULFAMOYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | 0.033 g, 42% yield | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)S(N)(=O)=O)=O)C | C21H28N6O4S
